US07465815B2
3-(4-Isopropylphenyl)-4,7-dimethyl-1-benzofuran-2 (3H)-one
Using hydroxy(4-isopropylphenyl)acetic acid and 2,5-dimethylphenol synthesized in Reference Example 1, the title compound was synthesized in the same manner as in Reference Example 2. Yield 20%. Melting point: 107-109° C. (hexane-ethyl acetate).

reactant | hydroxy(4-isopropylphenyl)acetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 2,5-dimethylphenol | CC1=C(C=C(C=C1)C)O | C8H10O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(4-Isopropylphenyl)-4,7-dimethyl-1-benzofuran-2 (3H)-one | Yield 20% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC=C2C)C)=O | C19H20O2
